### PR TITLE
PR results showing that the Baer sum makes Ext^1 into an abelian group, plus helper lemmas, general results, and a couple of new files.

### PR DESCRIPTION
**Pull request by JacobEnder**
Merge request for results proving that the Baer sum makes Ext^1 into an abelian group, along with all helper lemmas, additional group-theoretic results, and a couple of new files in theories/Algebra.

### CODE REVIEW

**Comment by jdchristensen** [comment]
Thanks for pulling this together (and for all of the work this summer!)

The commit message should reflect the content, not your role.  If you can edit history and fix that (e.g. with "git commit --amend", or
something similar in your GUI), that would be good.  Since it's a large commit, you might use a one line summary, followed by a blank line, followed by a few lines with more information.

The PR also needs a description, probably with more detail than just the commit message.

I'll make more comments about specific lines in the file in a few minutes.

File: theories/Algebra/AbGroups/AbHom.v [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+(** We can negate an abelian group homomorphism by composing with ab_homo_negation. *)
+Global Instance negate_hom (A : Group) (B : AbGroup)
+  : Negate (@Hom Group _ A B) := grp_homo_compose ab_homo_negation.
+
+(** For [A, B : AbGroup], homomorphisms A $-> B form an abelian group.  *)
+Definition grp_hom `{Funext} (A : Group) (B : AbGroup) : Group.
+Proof.
+  nrefine (Build_Group
+              (GroupHomomorphism A B)
+              (fun f g => grp_homo_compose ab_codiagonal (grp_prod_corec f g))
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v:30]: Replace with `ab_homo_add`.

File: theories/Algebra/AbGroups/AbHom.v [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+Definition ab_homo_add {A : Group} {B : AbGroup} (f g : A $-> B)
+  : A $-> B.
+Proof.
+  refine (grp_homo_compose ab_codiagonal _).
+  (** [fun a => f(a) + g(a)] **)
+  exact (grp_prod_corec f g).
+Defined.
+
+(** We can negate an abelian group homomorphism by composing with ab_homo_negation. *)
+Global Instance negate_hom (A : Group) (B : AbGroup)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v:22]: Make `A` and `B` implicit args.

File: theories/Algebra/AbGroups/AbHom.v [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+  : Negate (@Hom Group _ A B) := grp_homo_compose ab_homo_negation.
+
+(** For [A, B : AbGroup], homomorphisms A $-> B form an abelian group.  *)
+Definition grp_hom `{Funext} (A : Group) (B : AbGroup) : Group.
+Proof.
+  nrefine (Build_Group
+              (GroupHomomorphism A B)
+              (fun f g => grp_homo_compose ab_codiagonal (grp_prod_corec f g))
+              grp_homo_const
+              (@negate_hom _ _) _).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v:32]: Change to `negate_hom _).`  Since the lines will now be short, maybe a few of them can be combined.

File: theories/Algebra/AbGroups.v [hunk 4]
```diff
@@ -5,6 +5,7 @@ Require Export HoTT.Algebra.AbGroups.Abelianization.
 Require Export HoTT.Algebra.AbGroups.AbPullback.
 Require Export HoTT.Algebra.AbGroups.AbPushout.
 Require Export HoTT.Algebra.AbGroups.AbSES.
+Require Export HoTT.Algebra.AbGroups.Biproduct.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups.v:8]: Also export AbHom.v.  And in AbSES.v, export DirectSum.v.

File: theories/Algebra/AbGroups/AbSES/BaerSum.v [hunk 5]
```diff
@@ -1,52 +1,11 @@
...
-  : AbSES (ab_biprod B B') (ab_biprod A A')
-  := Build_AbSES (ab_biprod E F)
-                 (functor_ab_biprod (inclusion E) (inclusion F))
-                 (functor_ab_biprod (projection E) (projection F))
-                 (functor_ab_biprod_embedding _ _)
-                 (functor_ab_biprod_surjection _ _)
-                 (ab_biprod_exact _ _ _ _).
+(** ** The Baer sum of two short exact sequences, lemmas and consequences. *)
 
 (** The Baer sum of two short exact sequences is obtained from the pointwise direct sum by pushing forth along the codiagonal and then pulling back along the diagonal. (Swapping the order of pushing forth and pulling back produces an isomorphic short exact sequence.) *)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/BaerSum.v:10]: Change `forth` to `forward` in two places in this line.  (I know that this comment is not yours, but might as well switch to the standard phrase.)

File: theories/Algebra/AbGroups/AbSES/BaerSum.v [hunk 6]
```diff
@@ -96,3 +55,153 @@ Proof.
...
+  refine (_ @ abses_pullback_compose ab_diagonal direct_sum_swap _).
+  refine (ap (abses_pullback ab_diagonal) _).
+  refine (ap (fun f => abses_pushout f _) ab_codiagonal_swap^ @ _).
+  refine ((abses_pushout_compose _ _ _)^ @ _).
+  refine (ap _ (abses_pushout_is_pullback (abses_swap_morphism E F)) @ _).
+  unfold abses_swap_morphism, component3.
+  apply abses_pushout_pullback_reorder.
+Defined.
+
+(** The right unit law for the Baer sum says that for all [E : AbSES B A], E + E_0 = E, where E_0 is the split short exact sequence. *)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/BaerSum.v:102]: Put square brackets around the other symbols.

File: theories/Algebra/AbGroups/AbSES/DirectSum.v [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+Proof.
+  snrapply Build_IsExact.
+  - snrapply phomotopy_homotopy_hset.
+    1: exact _.
+    intro x; apply path_prod; cbn.
+    + apply ex0.
+    + apply ex1.
+  - intros [ef u]; cbn.
+    rapply contr_inhabited_hprop.
+    destruct ef as [e f].
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/DirectSum.v:26]: Change first line to `  - intros [[e f] u]; cbn.` and then remove third line.

File: theories/Algebra/AbGroups/AbSES/DirectSum.v [hunk 8]
```diff
@@ -0,0 +1,116 @@
...
+  : AbSESMorphism (abses_direct_sum E F) (abses_direct_sum F E).
+Proof.
+  snrapply Build_AbSESMorphism.
+  1,2,3: exact direct_sum_swap.
+  all: reflexivity.
+Defined.
+
+(** For every [E : AbSES B A], there is a morphism of the split short exact sequence into [E]. *)
+Lemma abses_split_morphism `{Funext} {A B : AbGroup} (E : AbSES B A)
+  : AbSESMorphism (point (AbSES B A)) E.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/DirectSum.v:97]: This Lemma doesn't seem to belong in this file.  It's also not used anywhere, as far as I can see.  Either delete it or more it somewhere more appropriate.

File: theories/Algebra/AbGroups/AbSES/Pullback.v [hunk 9]
```diff
@@ -1,6 +1,6 @@
 Require Import Basics Types HSet HFiber Limits.Pullback Cubical.PathSquare.
 Require Import WildCat Pointed Homotopy.ExactSequence.
-Require Import AbGroups.AbelianGroup AbGroups.AbPullback AbSES.Core.
+Require Import AbGroups.AbelianGroup AbGroups.AbPullback AbSES.Core AbGroups.Biproduct AbSES.DirectSum.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/Pullback.v:3]: I like the way in other files you put the AbGroup imports on one line and the AbSES imports on a separate line.

File: theories/Algebra/AbGroups/AbSES/PullbackFiberSequence.v [hunk 10]
```diff
@@ -1,6 +1,6 @@
 Require Import Basics Types HSet HFiber Limits.Pullback Cubical.PathSquare.
 Require Import WildCat Pointed Homotopy.ExactSequence.
-Require Import AbGroups.AbelianGroup AbSES.Core AbSES.Pullback.
+Require Import AbGroups.AbelianGroup AbSES.Core AbSES.Pullback AbGroups.Biproduct.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/PullbackFiberSequence.v:3]: AbGroups and AbSES on separate lines.

**Comment by JacobEnder** [comment]
That last force-push was just to change the commit description. It shouldn't have had an impact on the changes, but let me know if something went wrong.

**Comment by jdchristensen** [comment]
I'm seeing a message "This branch has conflicts that must be resolved".  Not sure why there would be any conflicts.

**Comment by jdchristensen** [comment]
After force pushing, it is showing 47 changed files and 17 commits instead of just 1.  So something got messed up.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 11]
```diff
@@ -0,0 +1,310 @@
+Require Import AbelianGroup.
+Require Import WildCat.
+Require Import HoTT.Basics HoTT.Types.
+Require Import Truncations HSet.
+Require Import Colimits.Coeq.
+Require Export Algebra.Groups.
+Require Import Cubical.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:7]: Remove HoTT.Basics, HoTT.Types, Truncations, Colimits.Coeq, and Cubical. Move AbelianGroup to the end (roughly going from general to specific).  Can you also check whether other files have unneeded imports?  They slow down the build and reduce parallelizability of the build.

**Comment by JacobEnder** [comment]
> After force pushing, it is showing 47 changed files and 17 commits instead of just 1. So something got messed up.

I'm seeing this too - that last push should only have been to push through the description change of the last commit. I'm not sure why it did this. I'll have to backtrack it.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 12]
```diff
@@ -0,0 +1,310 @@
...
+    rewrite <- (associativity _ (f a') _).
+    rewrite (commutativity (f a') _).
+    rewrite (associativity _ (g b) _).
+    exact (associativity _ (f a') _)^.
+Defined.
+
+(** These inherit [IsSurjection] instances from their [grp_prod] versions. *)
+Definition ab_biprod_pr1 {A B : AbGroup} : ab_biprod A B $-> A := grp_prod_pr1.
+Definition ab_biprod_pr2 {A B : AbGroup} : ab_biprod A B $-> B := grp_prod_pr2.
+
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:44]: Move these lines above ab_biprod_rec.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 13]
```diff
@@ -0,0 +1,310 @@
...
+(** Addition [+] is a group homomorphism [A+A -> A]. *)
+Definition ab_codiagonal {A : AbGroup} : ab_biprod A A $-> A
+  := ab_biprod_rec grp_homo_id grp_homo_id.
+
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:48]: Maybe these lines should go somewhere below, to not interrupt the facts about the recursion principle?

File: theories/Algebra/AbGroups/Biproduct.v [hunk 14]
```diff
@@ -0,0 +1,310 @@
...
+Defined.
+
+(** Corecursion principle, inherited from Groups/Group.v. *)
+Definition ab_biprod_corec {A B X : AbGroup}
+           (f : X $-> A) (g : X $-> B)
+  : X $-> ab_biprod A B := grp_prod_corec f g.
+
+Definition ab_diagonal {A : AbGroup} : A $-> ab_biprod A A
+  := ab_biprod_corec grp_homo_id grp_homo_id.
+
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:116]: Similarly, maybe these should be moved below?

File: theories/Algebra/AbGroups/Biproduct.v (hunk 13 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/Biproduct.v:48]: Yes, I think that all of the diagonal and codiagonal stuff should be adjacent in the file.
